US06333336B1
6-Ethyl-2, 5-dihydro-2,7-diphenylpyrazolo[4,3-c]pyridin-3-one hydrochloride
Following a similar procedure to that described in Example 4, except using ethyl 4-chloro-2-ethyl-3-phenyl-5-pyridinecarboxylate and phenylhydrazine instead of ethyl 4-chloro-3-propyl-5-pyridinecarboxylate and 4-chlorophenylhydrazine hydrochloride, the title compound was prepared in 35% yield as a yellow solid; mp 239-247° C.; 1H NMR (500 MHz, DMSO-d6) δ1.14 (3H, t, J 7.5 Hz), 2.54 (2H, q, J 7.5 Hz), 7.12 (1H, t, J 7.4 Hz), 7.39 (2H, t, J 7.6 Hz), 7.42-7.54 (5H, m), 8.02 (2H, d, J 7.7 Hz), 8.58 (1H, s), 12.59 (1H, br s); MS (ES+) m/z 316 [MH]+; Anal. found: C, 68.03; H, 5.22; N, 11.79. C20H17N3O.HCl requires: C, 68.28; H, 5.16; N, 11.94%.

reactant | ethyl 4-chloro-2-ethyl-3-phenyl-5-pyridinecarboxylate | ClC1=C(C(=NC=C1C(=O)OCC)CC)C1=CC=CC=C1 | C16H16ClNO2
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | 4-chlorophenylhydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
product | 6-Ethyl-2, 5-dihydro-2,7-diphenylpyrazolo[4,3-c]pyridin-3-one hydrochloride | 35% yield | Cl.C(C)C1=C(C=2C(=CN1)C(N(N2)C2=CC=CC=C2)=O)C2=CC=CC=C2 | InChI=1S/C20H17N3O.ClH/c1-2-17-18(14-9-5-3-6-10-14)19-16(13-21-17)20(24)23(22-19)15-11-7-4-8-12-15;/h3-13,21H,2H2,1H3;1H
